US06096736
A mixture of (5S)-5-hydroxymethyl-1-(p-toluenesulfonyl)-2,3,4,5-tetrahydro-1H-benzazepine (1.33 g), triphenylphosphine (2.10 g), carbon tetrabromide (2.65 g) and dichloromethane (50 ml) is stirred at room temperature for 30 minutes. The reaction solution is poured into a saturated aqueous sodium hydrogen carbonate solution, and the mixture is extracted with dichloromethane. The extract is dried over sodium sulfate, and concentrated under reduced pressure to remove the solvent, and the resulting residue is purified by silica gel column chromatography (solvent; dichloromethane:n-hexane=4:1), and recrystallized from diethyl ether--n-hexane to give (5S)-5-bromomethyl-1-(p-toluenesulfonyl)-2,3,4,5-tetrahydro-1H-benzazepine (1.26 g).

reactant | (5S)-5-hydroxymethyl-1-(p-toluenesulfonyl)-2,3,4,5-tetrahydro-1H-benzazepine | 1.33 g | OC[C@H]1CCCN(C2=C1C=CC=C2)S(=O)(=O)C2=CC=C(C=C2)C | C18H21NO3S
reactant | triphenylphosphine | 2.10 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 2.65 g | C(Br)(Br)(Br)Br | CBr4
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (5S)-5-bromomethyl-1-(p-toluenesulfonyl)-2,3,4,5-tetrahydro-1H-benzazepine | 1.26 g | BrC[C@H]1CCCN(C2=C1C=CC=C2)S(=O)(=O)C2=CC=C(C=C2)C | C18H20BrNO2S
